US05508293
3-Cyano-5-methylpyridine (2 g, 16.9 mmol) was dissolved in 1-propanol (100 ml). Sodium methoxide (46 mg, 0.85 mmol) was added, and the resulting mixture was stirred at 0° C. for 20 hours. After the completion of the reaction, the reaction mixture was neutralized with acetic acid (56 mg, 0.93 mmol), and the resulting mixture was concentrated under reduced pressure. After concentration, ethyl ether (50 ml) was added to the residue, and insoluble sodium acetate was removed by filtration. The filtrate was concentrated under reduced pressure to give a crude product of propyl 5-methyl-3-pyridinecarboximidate.

reactant | 3-Cyano-5-methylpyridine | 16.9 mmol, 2 g | C(#N)C=1C=NC=C(C1)C | C7H6N2
reactant | Sodium methoxide | 0.85 mmol, 46 mg | C[O-].[Na+]
reactant | acetic acid | 0.93 mmol, 56 mg | C(C)(=O)O | C2H4O2
solvent | 1-propanol | 100 ml | C(CC)O | C3H8O
product | propyl 5-methyl-3-pyridinecarboximidate | CC=1C=C(C=NC1)C(OCCC)=N | C10H14N2O
